US04826982
Ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate
A mixture of ethyl 3-bromo-2,4,5-trifluorobenzoylacetate (1.5 g), ethyl orthoformate (1.0 g) and acetic anhydride (1.2 g) was stirred at 130° C. for 4.5 hours and then concentrated to give the title compound (1.75 g) as yellow oil.

reactant | ethyl 3-bromo-2,4,5-trifluorobenzoylacetate | 1.5 g | BrC=1C(=C(C(=O)CC(=O)OCC)C=C(C1F)F)F | C11H8BrF3O3
reactant | ethyl orthoformate | 1.0 g | C(OCC)([O-])[O-]
reactant | acetic anhydride | 1.2 g | C(C)(=O)OC(C)=O | C4H6O3
product | Ethyl 2-(3-bromo-2,4,5-trifluorobenzoyl)-3-ethoxyacrylate | 1.75 g | BrC=1C(=C(C(=O)C(C(=O)OCC)=COCC)C=C(C1F)F)F | C14H12BrF3O4
